US05712303
Cyanoacetic acid (8.5 g, 0.10 mol) in 200 mL of dry ether was treated with 20.8 g (0.10 mol) of phosphorous pentachloride, warmed briefly to reflux and let cool to room temperature at which time all of the phosphorous pentachloride, had dissolved. After a small amount of insoluble material was removed by filtration, the ether was removed on the rotary evaporator. Then 100 mL of toluene was added and stripped to remove phosphorous oxytrichloride. The residual pale yellow oil was immediately dissolved in 50 mL of cold methylene dichloride and added to a cold suspension of 21.15 g (0.10 mol) of 2,4,6-trichlorophenylhydrazine in 14.0 mL of triethylamine and 100 mL of methylene dichloride, keeping the temperature below 20° C. by use of an ice bath. The reaction mixture was allowed to warm to room temperature and stirred for one hour. Then 500 mL of cold water was added. The precipitated solid was filtered and washed with water and with a little methylene dichloride to give the intermediate 2-cyano-N-(2,4,6-trichlorophenyl)acethydrazide, 14.92 g (54%), m.p. 166°-168° C. Anal. Calcd. for C9H6ON3 : C, 38.81; H, 2.17; N, 15.09. Found: C, 38.83; H, 2.06; N, 14.81.

reactant | Cyanoacetic acid | 0.10 mol, 8.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | phosphorous pentachloride | 0.10 mol, 20.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2,4,6-trichlorophenylhydrazine | 0.10 mol, 21.15 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | water | 500 mL | O | H2O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | triethylamine | 14.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-cyano-N-(2,4,6-trichlorophenyl)acethydrazide | C(#N)CC(=O)N(N)C1=C(C=C(C=C1Cl)Cl)Cl | C9H6Cl3N3O
